Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
S/P Bike Crash 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Otherwise healthy ___ presents to the ED from OSH after he 
syncopized while riding his bike earlier today. 

Per initial ED note, he is an avid bicycler and was bike riding 
in a group when after approximately 3-miles he swerved and fell. 
He was wearing a helmet and landed on his head and right side. 
Bystanders note he was unresponsive for two minutes and was 
breathing irregularly but there were no convulsions or 
incontinence. He became conscious en route to OSH and has no 
recollection of the incident. At OSH a ___ identified a 
subarachnoid hemorrhage over the left frontal convexity. He had 
an XR of the right shoulder that identified no fracture or 
dislocation. Plain films and a CT of the lower extremity 
identified a comminuted right acetabular fracture and bilateral 
inferior pubic rami fractures, slight irregularly of the right 
sacral ala, with slight thickening of the right piriformis and 
obturator externus muscles suggestive of hematoma.

Upon arrival he reports he has only had a syncopal episode once 
before in the setting of hemorrhage ___ nosebleed. He reports 
some hip pain but denies any headache, chest pain, SOB, 
abdominal pain, nausea or vomiting.

In the ED, initial VS were:
99.0   90   127/82   18   95% RA 

Exam notable for:
Small abrasion over left head otherwise head NC/AT, pupils 3mm 
and equal/round/reactive, EOMI, jaw aligned with no loose or 
missing teeth, patient in ___ C-collar Bilateral breath 
sounds with no wheezing or rhonchi
CTA bilaterally with 2+ radial and DP pulses Abdomen soft, 
nontender, no rebound or guarding Superficial abrasions over 
WBC 20.7
Hgb 14.8/45.1
Plt 222
Fibrinogen 254
INR 1.0
Serum tox: negative
BUN 21
Cr 0.8
pH
7.43 pCO2 33 pO2 96 HCO3 23 
Lactate 2.1
U/A: unremarkable

Imaging showed:
CT C-spine:
1. No acute fracture or malalignment of the cervical spine.
2. Mild-to-moderate degenerative changes in the cervical spine.

CXR
1. No acute cardiopulmonary process.
2. No acute fractures.

Consults:
Trauma Surgery
"Patient evaluated as trauma activation. 
 - Await final Ortho recs. 
 - ___ evaluation. If per ___, patient is appropriate for 
discharge
to home, may be discharged per ED discretion. "
 
Ortho
"Pt seen and examined, non-op R acetabular fx.TDWB ROMAT RLE, 
WBAT ROMAT LLE
 f/u ___ clinic in ___ispo per ED"

Neurosurgery:
"L tSAH on imaging, neurologically intact, GCS 15. On no 
anticoagulants. Cspine CT negative for fracture and no 
tenderness to palpation- cspine cleared. There is no emergent or 
urgent neurosurgical intervention indicated at this time. No 
Keppra. No NSURG follow-up indicated, may f/u in concussion 
clinic if
needed. Please provide concussion packet. "

Patient received:
___ 13:10 IV Morphine Sulfate 4 mg ___  
___ 16:39 IV Morphine Sulfate 4 mg ___  
___ 19:12 PO OxyCODONE (Immediate Release) 5 mg
___ 

On arrival to the floor, patient reports he started a training 
ride for the Pan Mass challenge, when he "isn't sure what 
happened." He reports he did 51 miles last ___ as a training 
ride, with no issues. Denies dizziness, lightheadedness, CP, 
chest pressure, palpitations. 

He reports today, he "isn't sure what happened." He reports 
someone saw him go down and hit his head; he was wearing a 
helmet. He says the first thing he remembers is waking up in the 
ambulance. 

He denies f/c, otherwise felt in his normal state of health. 
He reports episode of fainting related to blood loss in ___, 
due to massive nose bleed at ___. At that time, he felt 
dizzy and then passed out.
He reports he had stress test at that time, with no issues. He 
has had EKGs since that time, but denies being told about 
cardiac issue in the past. 
He reports he is currently having pain in his R groin and has 
pain with moving R leg. He denies HA, vision or hearing changes. 


 
Past Medical History:
history of nosebleed with cautery in ___
umbilical hernia (infancy)
 
Social History:
___
Family History:
Brother- DM type I
Denies family history of cardiac issues, early cardiac death
Father--dementia (died age ___
Mother--alive, age ___, HTN

 
Physical Exam:
PHYSICAL EXAM: 
VS:  2310 99.1  PO 117 / 76 R Lying 83 18 95 RA 
GENERAL: NAD, laying in bed in NAD
HEENT: AT/NC, MMM, PERRLA
NECK: supple, no LAD. no carotid bruit bilaterally
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no ___ edema. examination of R leg limited ___ pain, 
however able to bend at knee bilaterally, move ankle bilaterally 
without difficulty. no significant bruising R or L hip or groin. 

PULSES: 2+ DP and femoral pulses bilaterally. ___. 
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric. CN II-XII grossly intact, PERRLA. sensation in ___ 
grossly intact.
DERM: abrasion R shoulder, R arm, R knww

DISCHARGE PHYSICAL EXAM:
24 HR Data (last updated ___ @ 723)
    Temp: 98.3 (Tm 98.7), BP: 128/86 (125-146/83-88), HR: 78
(73-82), RR: 18 (___), O2 sat: 96% (95-97), O2 delivery: Ra  
GENERAL: NAD, laying in bed in NAD
HEENT: AT/NC, MMM, PERRLA
NECK: supple, no LAD. 
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no ___ edema. examination of R leg limited ___ pain,
however able to bend at knee bilaterally, move ankle bilaterally
without difficulty.  
PULSES: 2+ DP and femoral pulses bilaterally. ___. 
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric. Visual acuity intact, no nystagmus, PERRLA.
DERM: abrasion R shoulder, R arm, R knee

 
Pertinent Results:
LABS ON ADMISSION 

___ 06:50AM BLOOD WBC-10.5* RBC-4.56* Hgb-13.7 Hct-41.2 
MCV-90 MCH-30.0 MCHC-33.3 RDW-13.2 RDWSD-43.8 Plt ___
___ 06:50AM BLOOD Plt ___
___ 06:50AM BLOOD Glucose-118* UreaN-19 Creat-1.0 Na-141 
K-4.2 Cl-103 HCO3-24 AnGap-14
___ 06:50AM BLOOD Calcium-8.9 Phos-3.7 Mg-2.3 Cholest-168
___ 12:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 06:50AM BLOOD Triglyc-99 HDL-56 CHOL/HD-3.0 LDLcalc-92
___ 06:50AM BLOOD %HbA1c-5.7 eAG-117
___ 01:03PM BLOOD Glucose-121* Lactate-2.1* Na-141 K-4.1 
Cl-105
___ 01:03PM BLOOD Hgb-14.8 calcHCT-44 O2 Sat-94 COHgb-4 
MetHgb-0

IMAGING: 

___ CT CSpine w/o Contrast 
Alignment is normal. No fractures are identified.  There is no 
prevertebral  soft tissue swelling.  Mild-to-moderate multilevel 
degenerative disc disease  is noted in the cervical spine.  For 
example there is moderate left neural foramina narrowing at 
C4-C5 secondary to uncovertebral hypertrophy (CT: 36, 602:44).  
There is no vertebral canal narrowing.There is no evidence of 
infection or neoplasm. 
  
There are multiple prominent but non pathologically enlarged 
bilateral 
cervical and supraclavicular lymph nodes, for example measuring 
up to 7 mm in the right submandibular space (02:25).  The 
thyroid gland is normal in 
appearance.  Limited views of the lung apices is unremarkable. 
  
IMPRESSION:  
1. No acute fracture or malalignment of the cervical spine. 
2. Mild-to-moderate degenerative changes in the cervical spine. 

___ CXR 
1. No acute cardiopulmonary process. 
2. No acute fractures. 

___ CT HEAD
1. Persistent left frontal subarachnoid hemorrhage with expected 
evolution of blood products without evidence of new hemorrhage 
or infarct. 

___ TTE 
is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with a normal cavity size. There is normal regional 
left ventricular systolic function. Quantitative biplane left 
ventricular ejection fraction is 62 %. Left ventricular cardiac 
index is normal (>2.5 L/min/m2). There is no left ventricular 
outflow tract gradient at rest or with Valsalva. No ventricular 
septal defect is seen. Tissue Doppler suggests a normal left 
ventricular filling pressure (PCWP less than 12mmHg). Normal 
right ventricular cavity size with normal free wall motion. The 
aortic sinus diameter is normal for gender with normal ascending 
aorta diameter for gender. The aortic arch diameter is normal. 
There is no evidence for an aortic arch coarctation. The aortic 
valve leaflets (3) appear structurally normal. There is no 
aortic valve stenosis. There is no aortic regurgitation. The 
mitral valve leaflets appear structurally normal with no mitral 
valve prolapse. There is trivial mitral regurgitation. The 
tricuspid valve leaflets appear structurally normal. There is 
physiologic tricuspid regurgitation. The estimated pulmonary 
artery systolic pressure is normal. There is no pericardial 
effusion.

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/global biventricular systolic 
function. No valvular pathology or pathologic flow identified. 
Normal estimated pulmonary artery systolic pressure. No 
structural cardiac cause of syncope identified.

CLINICAL IMPLICATIONS: Based on the echocardiographic findings 
and ___ ACC/AHA recommendations, antibiotic prophylaxis is NOT 
recommended.

DISCHARGE LABS:

___ 05:10AM BLOOD WBC-8.3 RBC-4.45* Hgb-13.7 Hct-41.5 
MCV-93 MCH-30.8 MCHC-33.0 RDW-13.0 RDWSD-44.3 Plt ___
___ 05:10AM BLOOD ___ PTT-31.0 ___
___ 05:10AM BLOOD Glucose-105* UreaN-15 Creat-1.1 Na-142 
K-4.7 Cl-103 HCO3-28 AnGap-11
___ 05:10AM BLOOD Calcium-9.2 Phos-4.4 Mg-2.3
___ 06:50AM BLOOD Triglyc-99 HDL-56 CHOL/HD-3.0 LDLcalc-92
___ 06:50AM BLOOD %HbA1c-5.7 eAG-117
___ 06:50AM BLOOD TSH-2.3
 
Brief Hospital Course:
Mr. ___ is a ___ YO M with no significant prior PMH who 
presented to ___ as a transfer from OSH after experiencing a 
?syncopal event during a cycling training ride. In the ED he was 
found to have small SAH and comminuted R acetabular fracture and 
bilateral inferior pubic rami fractures. He was evaluated by 
ortho, neuro surg and trauma surgery with no acute surgical 
intervention recommended. A syncope work up was negative and he 
was discharged with orthopedic follow up. 

ACUTE ISSUES:
===============
#Syncopal event
Patient describes uncertainty surrounding the fall event, and is 
not sure if he syncopized or was struck by another rider. He 
experienced LOC after striking his head; per ED report, 
bystanders reported breathing irregularly but there were no 
convulsions or incontinence (which might be suggestive of 
seizure like event.) While in house he was monitored on 
telemetry without any events. EKG was not revealing for an 
underlying cause of syncope. A TTE was within normal limits and 
cardiac risk factor testing including a A1c, cholesterol and TSH 
were all WNL. 

#subarachnoid hemorrhage
Seen on OSH CT scan. Patient was evaluated by neurosurgery in 
the ED who recommended no AED or surgical intervention. During 
his stay he was having blurriness of his near vision which was 
discussed with neurosurgery who recommended a second head CT 
which demonstrated normal evolution of the SAH. He was scheduled 
for neurology follow up as an outpatient. 

#comminuted right acetabular fracture 
#bilateral inferior pubic rami fractures
Per OSH ___ CT done at OSH. Patient was evaluated by Trauma 
Surgery and Orthopedics in ED with no surgical interventions 
recommended. Plan to follow up with orthopedics as an 
outpatient. 

#Leukocytosis
20k on arrival to ED; felt to be reactive in setting of acute 
stress/fractures. Down trended appropriately while in house. 

Transitional issues:
[ ] follow up with ortho scheduled 
[ ] follow up appointment with neurology concussion clinic 
pending at discharge 
[ ] if patient has another episode of syncope, would recommend 
longer term event monitor for further work up
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Moderate  
3.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses: 
Syncope
Subarachnoid hemorrhage 
Comminuted right acetabular fracture
Bilateral inferior pubic rami fractures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure caring for you during your admission to ___. 
Below you will find information regarding your stay.

WHY WAS I ADMITTED TO THE HOSPITAL?  
- You were admitted after you fell while you were riding your 
bike.
- You had a head CT at an outside hospital that showed a small 
brain bleed. 
- You were found to have a R hip fracture.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?  
- You were seen by the trauma team as well as the orthopedic 
doctors and the ___. 
- You had a CT scan of your neck and an ultrasound of your 
heart, both of which were normal.
- You had a second CT scan of your head which showed no 
concerning findings. 
- You were discharged to rehab to follow up with orthopedic 
surgery and neurology as an outpatient.   

WHAT SHOULD I DO WHEN I GO HOME?  
- Take your medications as prescribed  
- Keep your follow up appointments with your team of doctors  

Thank ___ for letting us be a part of your care!  

Your ___ Care Team  

 
Followup Instructions:
___